US04246268
When in the procedure of Example 25, 4-[(3-ethoxy-2-naphthyl)methyl]piperidine is substituted for 6-chloro-2-naphthyl 4-piperidyl ketone and 3-bromo-1-phenylpropanol substituted for 4-chloro-1-(4-fluorophenyl)-1-butanone, α-phenyl-4-[(3-ethoxy-2-naphthyl)methyl]-1-piperidinepropanol is obtained.

reactant | 4-[(3-ethoxy-2-naphthyl)methyl]piperidine | C(C)OC=1C(=CC2=CC=CC=C2C1)CC1CCNCC1 | C18H23NO
reactant | 6-chloro-2-naphthyl 4-piperidyl ketone | N1CCC(CC1)C(=O)C1=CC2=CC=C(C=C2C=C1)Cl | C16H16ClNO
reactant | 3-bromo-1-phenylpropanol | BrCCC(O)C1=CC=CC=C1 | C9H11BrO
reactant | 4-chloro-1-(4-fluorophenyl)-1-butanone | ClCCCC(=O)C1=CC=C(C=C1)F | C10H10ClFO
product | α-phenyl-4-[(3-ethoxy-2-naphthyl)methyl]-1-piperidinepropanol | C1(=CC=CC=C1)C(CCN1CCC(CC1)CC1=CC2=CC=CC=C2C=C1OCC)O | C27H33NO2
